US08426639B2
In a 75 ml sealed tube, a stirred suspension of trans,trans dimethyl muconate (10.0 g, 58.8 mmol), two equivalents of methyl acrylate (10.6 ml, 117.6 mmol), neutral Al2O3 (300 mg of Aldrich 199974, 3 mass percent), and tert-butyl catechol (25 mg, 0.2 mol percent) in diglyme (20 ml, 2.9 M) is heated to 150° C. for 24 hours. After cooling to room temperature, the reaction mixture is filtered, transferred to a flask, and concentrated (0.5 M). Pd/C catalyst is added (856 mg (0.3 mol percent) of Johnson-Matthey 5 percent Pd/C #6) at room temperature. The flask is equipped with a reflux condenser, fritted gas dispersion tube, and internal T probe. Under N2 flow (190 ml/min) and stirring (190 rpm) the mixture is heated to reflux for 27 hours whereby trimethyl trimellitate (46 percent over 2 steps) is formed. Some trimethyl cyclohexane-1,2,4-tricarboxylate is also produced.

reactant | trans,trans dimethyl muconate | 58.8 mmol, 10.0 g | C(\C=C\C=C\C(=O)OC)(=O)OC | C8H10O4
reactant | methyl acrylate | 117.6 mmol, 10.6 ml, two equivalents | C(C=C)(=O)OC | C4H6O2
reactant | tert-butyl catechol | 25 mg | C(C)(C)(C)C1=C(C(O)=CC=C1)O | C10H14O2
solvent | diglyme | 2.9 M, 20 ml | COCCOCCOC | C6H14O3
product | trimethyl cyclohexane-1,2,4-tricarboxylate | C1(C(CC(CC1)C(=O)OC)C(=O)OC)C(=O)OC | C12H18O6
